.include parameters.cir

.include models/p18_cmos_models.inc


M3 N3 N2 0 1 PMOS W=M3W L=M3L
M4 out 0 N3 1 PMOS W=M4W L=M4L

Vtest N2 0 dc 1.8

.dc Vtest 0 1.8 0.001
.plot dc v(out)
