.include parameters.cir

.include models/p18_cmos_models.inc


CC out 0 CCval
MC 1 out out 1 NMOS W=MCW L=MCL

VTEST out 0 1.8


.dc VTEST 0 1.8 0.001
.plot dc i(VTEST)
